US07091228B2
N-(4-Bromophenyl)-6-(trifluoromethyl)-1H-benzimidazol-2-amine
1,2-Diamino-5-trifluoromethylbenzene (0.25 g, 1.42 mmol) was diluted in toluene (5 mL) and treated with 4-bromophenylisothiocyanate (0.30 g, 1.42 mmol). The dark solution was stirred at 100° C. for 15 minutes, then treated with 1,3-dicyclohexylcarbodiimide (0.44 g, 2.13 mmol). The reaction was maintained at 100° C. for 5 h. The reaction was concentrated and partitioned between ethyl acetate and water. The organic layer was separated, dried (MgSO4), and concentrated under reduced pressure. The dark brown oil was purified by flash chromatography on silica gel, eluting with a gradient from 9:1 hexanes/ethyl acetate to 100% ethyl acetate. The title compound was obtained as a light pink solid (0.50 g, 30%). 1H NMR (300 MHz, DMSO-d6) δ 11.3 (broad d, 1 H), 9.87 (d, 1 H), 7.50 (d, 2 H), 7.61 (d, 1 H), 7.55–7.42 (m, 3 H), 7.35–7.30 (m, 1 H); LC/MS m/z 356.2 (MH+), retention time 2.33 minutes.

reactant | 1,2-Diamino-5-trifluoromethylbenzene | 1.42 mmol, 0.25 g | NC1=C(C=CC(=C1)C(F)(F)F)N | C7H7F3N2
reactant | 4-bromophenylisothiocyanate | 1.42 mmol, 0.30 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 1,3-dicyclohexylcarbodiimide | 2.13 mmol, 0.44 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Bromophenyl)-6-(trifluoromethyl)-1H-benzimidazol-2-amine | BrC1=CC=C(C=C1)NC1=NC2=C(N1)C=C(C=C2)C(F)(F)F | C14H9BrF3N3
